Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ ___ with HTN, HLD, learning disability who 
presents with weakness for 3 weeks. Seen at ___ x2 for 
same issue, told nothing was wrong. Can't walk more than a few 
minutes, has to sit down because of fatigue. Also reporting back 
pain from neck all the way down to legs and intermittent 
suprapubic tenderness. Denies stress/anxiety. No fevers/chills, 
ROS otherwise negative. Poor appetite for the past few weeks, 
but reports drinking a lot of fluids and increased frequency of 
urination. PCP notes family ___ died recently, pt denies 
stress/anxiety. TSH nl last week at ___.   
In the ED, initial vitals: 97.2 75 122/55 20 100%. Patient found 
to have ___ with cr 1.5, b/l 1.0.  
Most Recent Vitals: 98 82 17 128/77 sat 100 ra    
On the floor patient looked comfortable.  
REVIEW OF SYSTEMS: increased frequency of urination, no 
hematuria, dysuria or incontinence.  No fever, chills, sweats.  
No N/V/D, constipation or melena.  Dry eyes recently. ROS 
otherwise negative.

  

 
Past Medical History:
PAST MEDICAL & SURGICAL HISTORY:  
HTN  
HLD  
learning disability  
anxiety  

HOME MEDICATIONS:  
hydrochlorothiazide 25mg daily  
lisinopril 10mg daily  
simvastatin 20mg daily  
tums 2 tabs bid  
colace 100mg daily  
  
ALLERGIES: nkda  

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Admission:

VITALS: 98.4, 130/66, 77, 16, 100RA  
GENERAL: NAD  
HEENT: PERRL, EOMI  
NECK: no carotid bruits, no JVD  
LUNGS: CTAB though sounds are distant; no wheezes or crackles  
HEART: RRR, normal S1 S2, no MRG  
ABDOMEN: Soft, NT, NABS, no organomegaly, no suprapubic 
tenderness 
EXTREMITIES: No c/c/e  
NEUROLOGIC: A+OX3. Strength is ___ at hips, shoulders and elbows 
bilaterally. Gait is normal.  

Discharge:
Vitals: T 98.6, HR 80, BP 120/70, RR 18, SaO2 96%RA
GENERAL: NAD  
HEENT: PERRL, EOMI  
NECK: no carotid bruits, no JVD  
LUNGS: CTAB though sounds are distant; no wheezes or crackles  
HEART: RRR, normal S1 S2, no MRG  
ABDOMEN: Soft, NT, NABS, no organomegaly, no suprapubic 
tenderness 
EXTREMITIES: No c/c/e  
NEUROLOGIC: A+OX3. Strength is ___ at hips, shoulders and elbows 
bilaterally. Gait is normal.  

 
Pertinent Results:
___ 09:10AM BLOOD WBC-6.7 RBC-4.89 Hgb-13.2 Hct-40.2 MCV-82 
MCH-27.0 MCHC-32.8 RDW-12.8 Plt ___
___ 04:55PM BLOOD WBC-7.7 RBC-4.72 Hgb-12.6 Hct-37.7 
MCV-80* MCH-26.6* MCHC-33.3 RDW-12.7 Plt ___
___ 09:10AM BLOOD Glucose-118* UreaN-18 Creat-0.9 Na-138 
K-4.2 Cl-104 HCO3-22 AnGap-16
___ 04:55PM BLOOD Glucose-111* UreaN-29* Creat-1.5* Na-134 
K-3.9 Cl-96 HCO3-26 AnGap-16
___ 04:55PM BLOOD CK-MB-1 cTropnT-<0.01
___ 09:10AM BLOOD CK-MB-1 cTropnT-<0.01
___ 09:10AM BLOOD Calcium-9.3 Phos-2.4* Mg-2.___ ___ woman with a history of HTN, 
HLD, learning disability who presents with three weeks of 
weakness and decreased appetite found to have ___ resolved with 
fluids and a UTI, discharged on nitrofurantoin.
  
Active Issues:

# UTI: Weakness was likely due to UTI, perhaps emotional stress 
contributed however the patient denies this.  On the morning 
after admission she felt completely fine and continued to feel 
fine throughout her admission.  UA on ___ showed 8 WBC's and 
repeat showed 10 WBC's.  Given history of suprapubic tenderness, 
increased frequency of urination, and weakness she was started 
on macrobid BID.
  
# Acute kidney injury:  Likely due to UTI and low volume.  Cr 
improved with fluids from 1.5 to .9

Chronic Issues:

# Hypertension: Held lisinopril and hctz given likely low volume 
 
  
# Anxiety:  
Was not anxious during her stay 

Transitional Issues:
#UTI - finish course of macrobid, f/u with PCP for resolution of 
symptoms

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from PatientFamily/Caregiver.
1. Simvastatin 20 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Lisinopril 10 mg PO DAILY 
4. Calcium Carbonate 1000 mg PO BID 
5. Docusate Sodium 100 mg PO DAILY 

 
Discharge Medications:
1. Calcium Carbonate 1000 mg PO BID 
2. Docusate Sodium 100 mg PO DAILY 
3. Simvastatin 20 mg PO DAILY 
4. Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H UTI 
Duration: 7 Days 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
every twelve (12) hours Disp #*12 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
UTI
 
Discharge Condition:
Improved
 
Discharge Instructions:
Dear Ms. ___, you were admitted to the hospital for weakness 
and dehydration.  We gave you fluids and you felt better.  Your 
kidney function improved as well.

On ___ you were started on nitrofurantoin (Macrobid) - an 
antibiotic to treat your urinary tract infection.  You should 
continue taking this twice a day for a total of 7 days even if 
you feel better.
 
 
Followup Instructions:
___